US06566557B2
A solution of the 2,4,5-Trimethoxycinnamaldehyde (0.5 g) was treated with KMnO4 (0.5 g) in dry acetone (20 ml). The reaction mixture was left at room temperature for 24 hr, manganese dioxide was filtered off and the solvent was removed. The residue was dissolved in ethyl acetate and washed carefully with 10% NaHCO3, brine, and dried over anhydrous Na2SO4. Evaporation of the solvent afforded a crude solid, which was further recrystallised from water to afford 0.2 g 2,4,5-trimethoxybenzaldehyde as a colorless solid, mp 114° C. (lit. mp 114° C.); IR (film) νmax 1662 (carbonyl group), 1620, 1518, 1481, 1419, 1361, 1300, 1278, 1222, 1199, 1138, 1025, 865 cm−1; 1H NMR δ 10.32 (1H, s, CHO), 7.33 (1H, s, 6H), 6.50 (1H, s, 3H), 3.98 (3H, s, 2-OCH3), 3.93 ((3H, s, 4-OCH3), 3.88 (3H, s, 5-OCH3); 13C NMR δ 187.96 (CHO), 158.60 (C-2), 155.76 (C-4), 143.56 (C-5), 117.35 (C-1), 109.03 (C-6), 56.19 (2-OCH3, 4-OCH3 and 5-OCH3); EIMS m/z 196 [M]+ (100), 181 (49), 150 (32), 125 (33), 110 (23), 69 (37).

reactant | 2,4,5-Trimethoxycinnamaldehyde | 0.5 g | COC1=C(C=CC=O)C=C(C(=C1)OC)OC | C12H14O4
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2,4,5-trimethoxybenzaldehyde | 0.2 g | COC1=C(C=O)C=C(C(=C1)OC)OC | C10H12O4
